US09227971B2
Step 1: Preparation of 4-nitrophenyl methoxycarbamate
Methoxylamine hydrochloride (1.00 g, 12.0 mmol) was suspended in a mixture of dry pyridine (0.97 mL, 12.0 mmol) and dichloromethane (24 mL), and a solution of 4-nitrophenyl chlorocarbonate (2.41 g, 12.0 mmol) in dichloromethane (12 mL) was added over 30 min with stirring. The resulting heavy white suspension was warmed to reflux, refluxed for 6 h, and cooled to room temperature. The suspension was diluted with dichloromethane and washed with 1M HCl, keeping the emulsion with the aqueous layer, and the aqueous layer was re-extracted with dichloromethane. The combined organic phase was washed with water, saturated aqueous sodium bicarbonate and brine, keeping any emulsions with the aqueous layer, and then dried over magnesium sulfate and concentrated under reduced pressure. The crude product was purified by chromatography (90 g silica gel, 20-40% EtOAc/hexanes) to give the title compound (0.92 g) as a white crystalline solid. A second set of less pure product fractions was isolated to give additional product (0.21 g) as a white solid.

reactant | Methoxylamine hydrochloride | 12.0 mmol, 1.00 g | Cl.O(C)N
reactant | pyridine | 12.0 mmol, 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chlorocarbonate | 12.0 mmol, 2.41 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 24 mL | ClCCl | CH2Cl2
product | 4-nitrophenyl methoxycarbamate | 0.92 g | CONC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C8H8N2O5
